US05977136
4-Chloro-1 -Iodo-2-Nitrobenzene
To a suspension of 4-chloro-2-nitroaniline (5.18 g) in a 12 N sulphuric acid solution (60 ml) cooled to 10° a solution of sodium nitrite (2.76 g) in sulphuric acid (20 ml) and polyphosphoric acid (40 ml) were sequentially added. The reaction mixture was stirred for 3 hrs at r.t., then poured into crushed ice and urea was added until gas evolution ceases. The resulting solution was treated with an aqueous solution (20 ml) of potassium iodide (7.47 g) and heated at 70° for 1 h. The mixture was diluted with brine and extracted with EA then the organic phase was washed with brine, dried and concentrated in vacuo. The residue was purified by flash column chromatography (CH/EA=100/0 to 95/5 as eluant), obtaining the title compound as yellow solid (7.96 g). m.p. 55-56° C.

reactant | 4-chloro-2-nitroaniline | 5.18 g | ClC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium nitrite | 2.76 g | N(=O)[O-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
reactant | potassium iodide | 20 ml, 7.47 g | [I-].[K+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | brine | [Cl-].[Na+].O
solvent | sulphuric acid | 12 N, 60 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Chloro-1 -Iodo-2-Nitrobenzene | 7.96 g | ClC1=CC(=C(C=C1)I)[N+](=O)[O-] | C6H3ClINO2
